US06576596B1
1.90 g (0.0195 mol) of O-ethylhydroxylamine hydrochloride and 1.35 g (0.0097 mol) of finely powdered potassium carbonate were stirred for 1 hour at room temperature in 60 ml of dry methanol, and 4.90 g (0.0177 mol) of methyl 2-chloro-3-formyl-4-methylsulfonylbenzoate were then added. After stirring for 8 hours at room temperature, the solvent was removed, the residue was taken up in ethyl acetate and the organic phase was washed with water until neutral, dried and concentrated under reduced pressure. 5.00 g of methyl 2-chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoate were obtained. (Yield 88%).

reactant | O-ethylhydroxylamine hydrochloride | 0.0195 mol, 1.90 g | Cl.C(C)ON
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-chloro-3-formyl-4-methylsulfonylbenzoate | 0.0177 mol, 4.90 g | ClC1=C(C(=O)OC)C=CC(=C1C=O)S(=O)(=O)C | C10H9ClO5S
solvent | methanol | 60 ml | CO | CH4O
product | methyl 2-chloro-3-ethoxyiminomethyl-4-methylsulfonylbenzoate | 5.00 g, Yield 88% | ClC1=C(C(=O)OC)C=CC(=C1C=NOCC)S(=O)(=O)C | C12H14ClNO5S
